US08877944B2
4-(7-Carbamoyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 2-(1-tert-butoxycarbonyl-piperidin-4-yl)-3-oxo-2,3-dihydro-1H-isoindole-4-carboxylic acid (3.7 g, 10.3 mmol) in N,N-dimethylformamide (60 mL) hydroxybenzotriazole ammonium salt (3.15 g, 20.7 mmol), 1-ethyl-3-(3′-dimethylamino) carbodiimide hydrochloric acid salt (3.34 g, 20.7 mmol) and diisopropylethylamine (5.3 mL, 30.9 mmol) were added. The reaction mixture was stirred at room temperature overnight. The solvent was removed under reduce pressure and the residue was dissolved in ethyl acetate. The solution was washed twice with saturated sodium carbonate aqueous solution, and the organic phase was dried over anhydrous sodium sulfate and concentrated in vacuo. The crude was purified by flash chromatography (dichloromethane/methanol 97:3) to afford the title compound (2.74 g, 74%) as a white solid.

reactant | 2-(1-tert-butoxycarbonyl-piperidin-4-yl)-3-oxo-2,3-dihydro-1H-isoindole-4-carboxylic acid | 10.3 mmol, 3.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CC=2C=CC=C(C2C1=O)C(=O)O | C19H24N2O5
reactant | N,N-dimethylformamide | 20.7 mmol, 60 mL, 3.15 g | CN(C=O)C | C3H7NO
reactant | diisopropylethylamine | 30.9 mmol, 5.3 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | 4-(7-Carbamoyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | 2.74 g, 74% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(C2=C(C=CC=C2C1)C(N)=O)=O | C19H25N3O4
